US07495016B2
12.3 Preparation of 3-[4-(3-benzyloxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile
A mixture of 4-(3-benzyloxyphenyl)-pyrrolidin-2-one (1.8 g, 6.7 mmol), 3-bromobenzonitrile (1.83 g, 1.5 eq) and potassium phosphate (2.6 g, 1.8 eq) was created in a dry flask with a stir bar under N2. This mixture was dissolved in 10 mL DMF and 10 mL dioxane. To this solution was added 60 μL of 1,2-trans-cyclohexanediamine and CuI (100 mg). The solution was stirred and heated at 100° C. under N2 for 20 h, and then cooled down to r.t. EtOAc (100 mL) was added and the mixture was filtered, washed with NH4Cl solution, water and brine. The solution was also dried over MgSO4 and concentrated under a reduced pressure. The residue was purified by column chromatography on silica gel (EtOAc:Hexane=1:3) to give 1.36 g of the desired product. Yield: 55%.

reactant | 4-(3-benzyloxyphenyl)-pyrrolidin-2-one | 6.7 mmol, 1.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1CC(NC1)=O | C17H17NO2
reactant | 3-bromobenzonitrile | 1.83 g, 1.5 eq | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | potassium phosphate | 2.6 g, 1.8 eq | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-trans-cyclohexanediamine | 60 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 100 mg | [Cu]I
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-[4-(3-benzyloxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile | 1.36 g, Yield: 55% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1CC(N(C1)C=1C=C(C#N)C=CC1)=O | C24H20N2O2
